US07384964B2
Carbonic Acid 1-(2-benzyloxy-1-methylethyl)-5,5-diisopropoxy-2,4,4-trimethyl-3-oxopentyl ester 2,2,2-trichloroethyl Ester
To a solution of 7-Benzyloxy-5-hydroxy-1,1-diisopropoxy-2,2,4,6-tetramethyl-heptan-3-one (1.0 g, 2.4 mmol) and pyridine (0.8 mL, 7.3 mmol) in CH2Cl2 (10.0 mL) at 0° C. was added 2,2,2-trichloroethyl chloroformate (668.0 μL, 4.9 mmol) and the mixture was then allowed to warm to rt. After 1 h, the reaction mixture was quenched with brine and then extracted with CH2Cl2. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The crude product was purified by flash chromatography (gradient hexane to hexane/EtOAc 93:7) to give the desired product (1.285 g, 92%) as a clear oil: 1H NMR (400 MHz, CDCl3) δ 1.03-1.09 (m, 12H), 1.15 (d, J=1.8 Hz, 3H), 1.17 (d, J=1.9 Hz, 3H), 1.19-1.21 (m, 6H), 1.97-2.11 (m, 1H), 3.2 (dd, J=6.2 and 9.0 Hz, 1H), 3.54 (dd, J=4.8 and 9.1 Hz, 1H), 3.57-3.60 (m, 1H), 3.82 (qd, J=3.6 and 5.9 Hz, 2H), 4.47 (s, 2H), 4.57 (s, 1H), 4.72 (d, J=11.9 Hz, 1H), 4.81 (d, J=11.9 Hz, 1H), 5.08 (t, J=6.0 Hz, 1H), 7.29-7.35 (m, 5H); 13C NMR (100 MHz, CDCl3) δ 11.9, 15.0, 18.8, 21.4, 21.7, 22.3, 23.2, 23.4, 35.7, 42.5, 53.4, 53.9, 69.4, 70.9, 71.4, 73.3, 81.3, 94.7, 103.4, 127.5, 127.6, 128.2, 138.2, 154.0, 215.6; IR (film, NaCl, cm−1) 2966, 1760, 1698, 1247; LRMS (ESI) calcd for C27H41O7Cl3Na [M+Na+] 605.2, found 605.2; [α]23D=−20.4 (c=1.0, CHCl3.

reactant | 7-Benzyloxy-5-hydroxy-1,1-diisopropoxy-2,2,4,6-tetramethyl-heptan-3-one | 2.4 mmol, 1.0 g | C(C1=CC=CC=C1)OCC(C(C(C(C(C(OC(C)C)OC(C)C)(C)C)=O)C)O)C | C24H40O5
reactant | pyridine | 7.3 mmol, 0.8 mL | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 4.9 mmol, 668.0 μL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | Carbonic Acid 1-(2-benzyloxy-1-methylethyl)-5,5-diisopropoxy-2,4,4-trimethyl-3-oxopentyl ester 2,2,2-trichloroethyl Ester | 1.285 g, 92% | ClC(COC(OC(C(C(C(C(OC(C)C)OC(C)C)(C)C)=O)C)C(COCC1=CC=CC=C1)C)=O)(Cl)Cl | C27H41Cl3O7
